US07410964B2
4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)-2-[2-(trimethylsilyl)ethoxymethyl]cyclohexanone
4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)cyclohexanone (WO 02/081435) (2.0 g, 5.2 mmol) in dry tetrahydrofuran (10 mL) was added dropwise to a cooled solution of 0.5 M lithium hexamethyldisilazide in tetrahydrofuran (11.4 mL) at −78° C. The mixture was stirred at this temperature for 2 hours before adding 2-(trimethylsilyl)ethoxymethyl chloride (1.4 mL, 7.8 mmol) and the solution allowed to warm to rt. over 16 hours. The reaction mixture was diluted with ethyl acetate (10 mL), washed with water (10 mL), and the organic phase separated, dried (MgSO4) and evaporated to dryness. The product was purified on silica eluting with [9:1] hexane-ethyl acetate to yield 1.2 g of the title compound. 1H NMR CDCl3 7.38 (4H, s), 7.24-7.16 (1H, m), 7.12-7.06 (1H, m), 6.97-6.87 (1H, m), 3.66 (1H, dd, J=9.7 and 3.0 Hz), 3.51-3.45 (3H, m), 3.17-3.15 (1H, m), 3.05-2.98 (1H, m), 2.56-2.49 (2H, m),241-2.35 (2H, m), 2.23-2.17 (1H, m), 0.91-0.87 (2H, m) and 0.03 (9H, s).

reactant | 4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)cyclohexanone | 5.2 mmol, 2.0 g | ClC1=CC=C(C=C1)S(=O)(=O)C1(CCC(CC1)=O)C1=C(C=CC(=C1)F)F | C18H15ClF2O3S
reactant | lithium hexamethyldisilazide | 0.5 M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 7.8 mmol, 1.4 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11.4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)-2-[2-(trimethylsilyl)ethoxymethyl]cyclohexanone | 1.2 g | ClC1=CC=C(C=C1)S(=O)(=O)C1(CC(C(CC1)=O)COCC[Si](C)(C)C)C1=C(C=CC(=C1)F)F | C24H29ClF2O4SSi
